US08648103B2
(a) 5-(4-Methoxyphenyl)-[1,3,4]oxathiazol-2-one
4-Methoxybenzamide (3.0 g, 19.9 mmol) was suspended in a mixture of toluene (30 mL) and THF (15 mL), and chlorosulfenyl chloride (3.35 mL, 39.7 mmol) was then added to the suspension. The obtained mixture was stirred at 80° C. for 2.5 hours. The reaction solution was cooled to room temperature, and it was then concentrated under reduced pressure. Thereafter, diethyl ether was added to the residue, and insoluble materials were then removed by filtration, so as to obtain the title compound (3.64 g, 88%) in the form of a colorless solid.

reactant | 4-Methoxybenzamide | 19.9 mmol, 3.0 g | COC1=CC=C(C(=O)N)C=C1 | C8H9NO2
reactant | chlorosulfenyl chloride | 39.7 mmol, 3.35 mL | ClSCl | Cl2S
reactant | THF | 15 mL | C1CCOC1 | C4H8O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Methoxyphenyl)-[1,3,4]oxathiazol-2-one | 3.64 g, 88% | COC1=CC=C(C=C1)C1=NSC(O1)=O | C9H7NO3S
